US07476399B2
b. Ethyl 2,2-dimethylbenzo[d][1,3]dioxole-5-carboxylate
Ethyl 3,4-dihydroxybenzoate (910.9 mg, 5 mmol) was combined with 2,2-dimethoxypropane (1.23 mL, 10 mmol) and a catalytic amount of p-toluene sulfonic acid in toluene. The mixture was heated to reflux using a Dean-Stark trap for 20 hours. After solvent removal under reduced pressure, the crude was dissolved in ethyl acetate and washed successively with a saturated aqueous solution of sodium bicarbonate, water, and brine. The organic layer was dried over anhydrous sodium sulfate. Purification by chromatography on silica gel using a gradient hexane:ethyl acetate, 90:10 to 75:25, afforded a white powder (539.1 mg, 49%). 1H NMR(CDCl3): δ 1.36 (t, 3H, J=7.2 Hz), 1.69 (s, 6H), 4.32 (q, 2H, J=7.1 Hz, J=14.2 Hz), 6.74 (d, 1H, d, J=8.2 Hz), 7.38 (d, 1 h, J=1.7 Hz), 7.61 (dd, 1H, J=1.8 Hz, J=8.3 Hz).

reactant | Ethyl 3,4-dihydroxybenzoate | 5 mmol, 910.9 mg | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
reactant | 2,2-dimethoxypropane | 10 mmol, 1.23 mL | COC(C)(C)OC | C5H12O2
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,2-dimethylbenzo[d][1,3]dioxole-5-carboxylate | 539.1 mg, 49% | CC1(OC2=C(O1)C=CC(=C2)C(=O)OCC)C | C12H14O4
